US07781479B2
1H-Pyrrolo[2,3-c]pyridine hydrochloride
A solution of 2-chloro-3-nitropyridine (4.76 g, 30.0 mmol) in THF (50 ml) was stirred at −70° C. and therein was dropped in a period of 40 minutes vinyl magnesium bromide (1.0 M in THF, 80.0 ml, 80.0 mmol). The mixture was warmed to room temperature and stirred over night. The reaction mixture was quenched with aqueous ammonium solution, made alkaline with aqueous sodium bicarbonate solution and extracted with chloroform. The organic layer was washed with water, dried over magnesium sulfate and filtered. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography. Thus obtained compound was dissolved in methanol (20 ml), and thereto was added 10% palladium hydroxide-carbon (50% wet)(40 mg). The mixture was stirred at room temperature under a hydrogen atmosphere at ordinary pressure for 5 hours. The reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo to give the subject compound (595 mg, 13%).

reactant | 2-chloro-3-nitropyridine | 30.0 mmol, 4.76 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | vinyl magnesium bromide | 80.0 mmol, 1.0 M, 80.0 ml | C(=C)[Mg]Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1H-Pyrrolo[2,3-c]pyridine hydrochloride | 595 mg, 13% | Cl.N1C=CC=2C1=CN=CC2 | InChI=1S/C7H6N2.ClH/c1-3-8-5-7-6(1)2-4-9-7;/h1-5,9H;1H
